US06265434B1
Step A: N,N′-Dimethyl-N,N′-dimethoxy oxamide
A mixture of 48.0 g (0.49 mol) of N,O-dimethylhydroxylamine HCl in 250 mL of 3:2 v/v CH2Cl2/pyridine was cooled to −78° C. and treated with 17.4 mL (0.2 mol) of oxalyl chloride maintaining the internal temperature at less than −70° C. The resulting mixture was allowed to warm to rt and stirred for 20 h. The reaction was quenched with 250 mL of sat'd NaCl and the quenched mixture was extracted with 3×400 mL of CH2Cl2. The extracts were combined, dried over MgSO4 and concentrated. Recrystallization from 250 mL of methyl t-butyl ether afforded 24.28 g (69%) of the title compound: 1H NMR (500 MHz) δ 3.25 (s, 6H), 3.75 (s, 6H).

reactant | N,O-dimethylhydroxylamine HCl | 0.49 mol, 48.0 g | Cl.CNOC
reactant | oxalyl chloride | 0.2 mol, 17.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 pyridine | C(Cl)Cl.N1=CC=CC=C1
product | N,N′-Dimethyl-N,N′-dimethoxy oxamide | 24.28 g, 69% | CN(C(=O)C(=O)N(OC)C)OC | C6H12N2O4
